US04344959
Preparation of 3-[9-methoxy-5,9-dimethyl-2(E)decenoyl]-4-butyrolactone (Id, R1 =CH3O, Z1 =H)
1 ml of methanol saturated with hydrochloric acid is added to a solution of 2.1 g (0.007 moles) of 3-(9-methoxy-3-hydroxy-5,9-dimethyl-decanoyl)-4-butyrolactone in 15 ml of dry methanol, and the mixture is allowed to stand at room temperature for 12 hours. 2 ml of water are added to the mixture, and the mixture is stirred at room temperature for 5 hours. The solvent is distilled off in vacuo, the residue is taken up in ether, the etheral solution is washed with water, dried, and the solvent is distilled off. The residue is purified by chromatography (adsorbent: Kieselgel 60, solvent: a 10:0.1 mixture of benzene and methanol). 1.4 g (70%) of the aimed compound are obtained; Rf =0.75 (developed with a 10:0.1 mixture of benzene and methanol).

reactant | hydrochloric acid | Cl | ClH
reactant | 3-(9-methoxy-3-hydroxy-5,9-dimethyl-decanoyl)-4-butyrolactone | 0.007 moles, 2.1 g | COC(CCCC(CC(CC(=O)C1CC(=O)OC1)O)C)(C)C | C17H30O5
reactant | water | 2 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | 3-[9-methoxy-5,9-dimethyl-2(E)decenoyl]-4-butyrolactone | 1.4 g, 70% | COC(CCCC(C/C=C/C(=O)C1CC(=O)OC1)C)(C)C | C17H28O4
